US04463007
Ethyl 9-nitro-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate
2.0 g (0.008 mole) of ethyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate were introduced into 20 ml of concentrated H2SO4 at 20° C., whilst stirring, and 0.3 ml of 100% strength HNO3 was added dropwise. The mixture was stirred for a further 3 hours at 20° C. and then introduced onto 100 ml of ice water. The precipitate was filtered off and dissolved in methylene chloride/methanol, the solution was treated with active charcoal and filtered, and the solvent was stripped off. Yield: 1.4 g (60%), mp. 280° C.

reactant | ethyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | 0.008 mole, 2.0 g | N1=C(NN2C(N=C3C=CC=CC3=C21)=O)C(=O)OCC | C12H10N4O3
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | Ethyl 9-nitro-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | [N+](=O)([O-])C1=CC2=C3N(C(N=C2C=C1)=O)NC(=N3)C(=O)OCC | C12H9N5O5
